US05763458
The 5',6'-dichloro-2',3'-ethylenedioxy-4'-nitroacetophenone can be prepared by chlorinating 1,4-benzodioxane to give 6,7-dichloro-1,4-benzodioxane and then acetylating. The chlorination can be carried out by treating the benzodioxane with chlorine gas in acetic acid at 0 to 20° C. and requires 1 to 8 hours. The acetylation can be effected by reacting the 6,7-dichloro-1,4-benzodioxane with acetyl chloride in the presence of a Lewis acid in a suitable solvent (e.g., 1,2-dichloroethane, carbon disulfide, nitrobeanzene, etc.) at 20 to 40° C. and requires 24 to 48 hours.

reactant | 5',6'-dichloro-2',3'-ethylenedioxy-4'-nitroacetophenone | ClC=1C(=C2C(=C(C1Cl)C(C)=O)OCCO2)[N+](=O)[O-] | C10H7Cl2NO5
reactant | 1,4-benzodioxane | O1CCOC2=C1C=CC=C2 | C8H8O2
product | 6,7-dichloro-1,4-benzodioxane | ClC1=CC2=C(OCCO2)C=C1Cl | C8H6Cl2O2
